* Extracted by KLayout with SG13G2 LVS runset on : 29/07/2026 09:30

.SUBCKT LNA_77G_XTOR
Q$1 \$84 \$84 \$65 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
Q$2 \$154 \$153 \$33 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
Q$3 \$155 \$156 \$33 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
Q$4 \$154 \$153 \$33 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
Q$5 \$155 \$156 \$33 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
Q$6 \$154 \$153 \$33 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
Q$7 \$155 \$156 \$33 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
Q$8 \$154 \$153 \$33 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
Q$9 \$155 \$156 \$33 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
Q$10 \$225 \$220 \$154 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
Q$11 \$226 \$220 \$155 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
Q$12 \$225 \$220 \$154 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
Q$13 \$226 \$220 \$155 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
Q$14 \$225 \$220 \$154 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
Q$15 \$226 \$220 \$155 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
Q$16 \$225 \$220 \$154 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
Q$17 \$226 \$220 \$155 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
R$18 \$33 \$84 \$1 rppd w=7u l=38.8u ps=0u b=0 m=1
R$19 \$33 \$84 \$1 rppd w=7u l=38.8u ps=0u b=0 m=1
R$20 \$33 \$84 \$1 rppd w=7u l=38.8u ps=0u b=0 m=1
R$21 \$65 \$84 \$1 rppd w=2.5u l=10.53u ps=0u b=0 m=1
R$22 \$65 \$84 \$1 rppd w=2.5u l=10.53u ps=0u b=0 m=1
R$23 \$65 \$84 \$1 rppd w=2.5u l=10.53u ps=0u b=0 m=1
R$24 \$65 \$84 \$1 rppd w=2.5u l=10.53u ps=0u b=0 m=1
R$25 \$65 \$84 \$1 rppd w=2.5u l=10.53u ps=0u b=0 m=1
R$26 \$65 \$84 \$1 rppd w=2.5u l=10.53u ps=0u b=0 m=1
R$27 \$65 \$84 \$1 rppd w=2.5u l=10.53u ps=0u b=0 m=1
R$28 \$65 \$84 \$1 rppd w=2.5u l=10.53u ps=0u b=0 m=1
R$29 \$65 \$84 \$1 rppd w=2.5u l=10.53u ps=0u b=0 m=1
R$30 \$65 \$84 \$1 rppd w=2.5u l=10.53u ps=0u b=0 m=1
R$31 \$65 \$84 \$1 rppd w=2.5u l=10.53u ps=0u b=0 m=1
R$32 \$65 \$84 \$1 rppd w=2.5u l=10.53u ps=0u b=0 m=1
R$33 \$65 \$84 \$1 rppd w=2.5u l=10.53u ps=0u b=0 m=1
R$34 \$286 \$220 \$1 rppd w=3u l=18.23u ps=0u b=0 m=1
R$35 \$286 \$220 \$1 rppd w=3u l=18.23u ps=0u b=0 m=1
R$36 \$220 \$84 \$1 rppd w=3u l=18.23u ps=0u b=0 m=1
R$37 \$84 \$84 \$1 rppd w=3u l=18.23u ps=0u b=0 m=1
R$38 \$84 \$84 \$1 rppd w=3u l=18.23u ps=0u b=0 m=1
C$39 \$121 \$153 cap_cmim w=6.99u l=6.99u A=48.8601p P=27.96u m=1
C$42 \$84 \$14 cap_cmim w=6.99u l=6.99u A=48.8601p P=27.96u m=1
C$43 \$226 \$286 cap_cmim w=6.99u l=6.99u A=48.8601p P=27.96u m=1
C$45 \$156 \$84 cap_cmim w=6.99u l=6.99u A=48.8601p P=27.96u m=1
C$47 \$14 \$286 cap_cmim w=6.99u l=6.99u A=48.8601p P=27.96u m=1
.ENDS LNA_77G_XTOR
